US07759401B2
This intermediate is then quaternarized with 3-methylimidazole. Under N2 atmosphere, a mixture of 11-bromoundecylacrylate (6.08 g, 20 mmol) and 1-methylimidazole (1.64 g, 20 mmol) and a small amount of 2,6-di-tert-butyl-4-methylphenol (inhibitor) was stirred at 40° C. for 48 h, and yielded a viscous liquid. The viscous liquid was purified by the precipitation method with diethyl ether to obtain yellow viscous liquid 1-(2-acryloyloxyundecyl)-3-methylimidazolium bromide. The viscous liquid was dried under vacuum at room temperature as the white waxy solid (5.73 g, 74%). 1H NMR (400 MHz, CDCl3): 10.66 (1H, m, N—CH—N), 7.34-7.25 (2H, s, N—CH═CH—N), 6.36-6.35 (1H, m, CH2═CH), 6.14-6.11 (1H, m, CH2═CH), 5.81-5.79 (1H, m, CH2═CH), 4.30-4.29 (2H, t, N—CH2(CH2)10O—), 4.11 (3H, s, N—CH3), 1.90-1.82 (2H, t, N—CH2(CH2)10O—), 1.66-1.62 (2H, m, —OCOCH2CH2), 1.30-1.24 (14H, m, —CH2CH2(CH2)7CH2CH2—). Elemental analysis: Calculated: C18H32BrN2O2, C, 55.67%; H, 8.31%; N, 7.21%. Found: C, 55.22%, H, 7.79%, N, 7.35%. mp: 37.2° C.

reactant | 3-methylimidazole | CN1C=NC=C1 | C4H6N2
reactant | 11-bromoundecylacrylate | 20 mmol, 6.08 g | BrCCCCCCCCCCCOC(C=C)=O | C14H25BrO2
reactant | 1-methylimidazole | 20 mmol, 1.64 g | CN1C=NC=C1 | C4H6N2
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | 1-(2-acryloyloxyundecyl)-3-methylimidazolium bromide | [Br-].C(C=C)(=O)OC(C[N+]1=CN(C=C1)C)CCCCCCCCC | InChI=1S/C18H31N2O2.BrH/c1-4-6-7-8-9-10-11-12-17(22-18(21)5-2)15-20-14-13-19(3)16-20;/h5,13-14,16-17H,2,4,6-12,15H2,1,3H3;1H/q+1;/p-1
